US08377923B2
A mixture of 3-[1-(2-bromo-4-chlorophenoxy)-1-methylethyl]-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole (200 mg), sodium methanesulfinate (215 mg) and copper iodide (400 mg) was dissolved in DMSO, followed by stirring under a nitrogen atmosphere at 110° C. for 4 hours and at 140° C. overnight. The reaction solution was returned to room temperature and water and ethyl acetate were added thereto, followed by celite filtration. The organic layer was separated from the filtrate, washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=97:3) and further purified by thin layer chromatography (chloroform:methanol=97:3). The resulting residue was dissolved in ethyl acetate and 4M hydrogen chloride-ethyl acetate was added thereto, followed by stirring at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure. The resulting residue was crystallized by adding diisopropylether and collected by filtration to obtain 3-{1-[4-chloro-2-(methylsulfonyl)phenoxy]-1-methylethyl}-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole monohydrochloride (18 mg) as a white crystal.

reactant | 3-[1-(2-bromo-4-chlorophenoxy)-1-methylethyl]-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole | 200 mg | BrC1=C(OC(C)(C)C2=NN=C(N2C)C2=C(C=CC=C2)C(F)(F)F)C=CC(=C1)Cl | C19H16BrClF3N3O
reactant | sodium methanesulfinate | 215 mg | CS(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | copper iodide | 400 mg | [Cu](I)I
product | 3-{1-[4-chloro-2-(methylsulfonyl)phenoxy]-1-methylethyl}-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole monohydrochloride | 18 mg | Cl.ClC1=CC(=C(OC(C)(C)C2=NN=C(N2C)C2=C(C=CC=C2)C(F)(F)F)C=C1)S(=O)(=O)C | InChI=1S/C20H19ClF3N3O3S.ClH/c1-19(2,30-15-10-9-12(21)11-16(15)31(4,28)29)18-26-25-17(27(18)3)13-7-5-6-8-14(13)20(22,23)24;/h5-11H,1-4H3;1H
